US07960415B2
(S,S)-3-[2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyrylamino]-4-oxo-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid
A solution of (S,S)-3-[2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyrylamino]-4-oxo-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester (187 mg, 0.327 mmol) in dichloromethane (5 mL) was cooled to 0° C. Trifluoroacetic acid (5 ml) was added and the resulting mixture allowed to warm to room temperature and stir for 2 hours. The mixture was then concentrated under reduced pressure and the residue redissolved in dichloromethane. This process was repeated several times in order to remove excess trifluoroacetic acid. The resulting solid was slurried in diethyl ether, filtered and washed with more diethyl ether. The solid was then dried to constant weight under vacuum. This gave the title product as a white solid (138 mg, 82%); 1H NMR (400 MHz, d6-DMSO) δ 0.78 (3H, t), 1.87-2.13 (5H, m), 2.56-2.78 (2H, m), 4.62 (1H, m), 5.18-5.29 (2H, m), 5.40 (1H, m), 6.28 (1H, t), 7.37 (1H, d), 7.53-7.66 (1H, m), 8.17-8.21 (1H, m), 8.92 (1H, d), 9.21 (1H, s), 12.51 (1H, br s); 19F NMR (376 MHz, d6-DMSO, proton-decoupled) δ−156.9, −141.1; M+H 516.2, M−H 514.2.

reactant | (S,S)-3-[2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyrylamino]-4-oxo-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester | 0.327 mmol, 187 mg | C(C)(C)(C)OC(C[C@@H](C(COC1=C(C(=CC(=C1F)F)F)F)=O)NC([C@H](CC)N1C(C(=CC=C1)NC(C)=O)=O)=O)=O | C26H29F4N3O7
reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S,S)-3-[2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyrylamino]-4-oxo-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid | 138 mg, 82% | C(C)(=O)NC=1C(N(C=CC1)[C@H](C(=O)N[C@@H](CC(=O)O)C(COC1=C(C(=CC(=C1F)F)F)F)=O)CC)=O | C22H21F4N3O7
